US04474700
The resulting dark solution, which contained sodium 3-t-butylthiotetrafluoropropionate, was stirred with 69.3 g (0.55 mole) of dimethyl sulfate while the temperature was maintained at 30°. After an initial exothermic reaction subsided, the mixture was stirred overnight and then distilled to give a crude product with bp about 45° (2 mm, 2.6×10-1 kPa). The distillate was washed with 1 liter of water, dried and fractionated to give 52.1 g (42%) of methyl 3-t-butylthiotetrafluoropropionate, bp 55° (2 mm, 2.6×10-1 kPa). IR (neat): 2970 (sat'd CH), 1775 (C=O), 1100-1250 cm-1 (CF). NMR (CCl4): 1H 3.87 (s, 3H, OCH3) and 1.52 ppm (s, 9H, C(CH3)3 ; 19F -86.3 (t, JFF 7.1 Hz, 2F, CF2S) and -117.6 ppm (t, JFF 7.1 Hz, 2F, CF2C=O).

reactant | sodium 3-t-butylthiotetrafluoropropionate | C(C)(C)(C)SC(C(C(=O)[O-])(F)F)(F)F.[Na+]
reactant | dimethyl sulfate | 0.55 mole, 69.3 g | S(=O)(=O)(OC)OC | C2H6O4S
product | methyl 3-t-butylthiotetrafluoropropionate | 52.1 g, 42% | C(C)(C)(C)SC(C(C(=O)OC)(F)F)(F)F | C8H12F4O2S
